US09193723B2
lithium 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate
A solution of ethyl 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate (31 mg, 0.098 mmol) in 1 ml of 1:1 tetrahydrofuran/methanol was treated with 1M LiOH (0.11 ml, 0.11 mol) and stirred at 65° C. for 3 hours. The mixture was taken to dryness and used directly in the next step.

reactant | ethyl 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate | 0.098 mmol, 31 mg | C1(=CC=CC=C1)N1CCC(CC1)C=1SC(=CN1)C(=O)OCC | C17H20N2O2S
reactant | LiOH | 0.11 mol, 1M, 0.11 ml | [Li+].[OH-]
solvent | tetrahydrofuran methanol | 1 ml | O1CCCC1.CO
product | lithium 2-(1-phenylpiperidin-4-yl)thiazole-5-carboxylate | C1(=CC=CC=C1)N1CCC(CC1)C=1SC(=CN1)C(=O)[O-].[Li+] | InChI=1S/C15H16N2O2S.Li/c18-15(19)13-10-16-14(20-13)11-6-8-17(9-7-11)12-4-2-1-3-5-12;/h1-5,10-11H,6-9H2,(H,18,19);/q;+1/p-1
